US08008327B2
3-Bromo-1H-indazole-4-carboxylic acid methyl ester was then subjected to the reaction conditions described in Example 2, for the synthesis of 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid, to yield 3-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid. Using the methods described in Example 2,3-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid was used to provide the following compounds:

reactant | 3-Bromo-1H-indazole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C(=NNC2C=CC1)Br | C9H7BrN2O2
reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)C(=O)O | C14H9FN2O2
product | 3-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid | BrC1=NN(C=2C=CC=C(C12)C(=O)O)C1=CC=C(C=C1)F | C14H8BrFN2O2
